US04948889
The same compound can be obtained by means of a procedure in a single reactor, by reacting 1 mol of cyanuric chloride in xylene first with 1 mol of bis(2,2,6,6-tetramethyl-4-piperidyl)amine and then with 2 mol of 2,2,6,6-tetramethyl-4-octylaminopiperidine without isolation of the dichlorotriazine formed as an intermediate.

reactant | cyanuric chloride | 1 mol | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | bis(2,2,6,6-tetramethyl-4-piperidyl)amine | 1 mol | CC1(NC(CC(C1)NC1CC(NC(C1)(C)C)(C)C)(C)C)C | C18H37N3
reactant | dichlorotriazine | ClC1=CC(=NN=N1)Cl | C3HCl2N3
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 2,2,6,6-tetramethyl-4-octylaminopiperidine | 2 mol | CC1(NC(CC(C1)NCCCCCCCC)(C)C)C | C17H36N2
